US07964618B2
A solution of 6-chloro-2-cyclopropylnicotinoyl chloride (patent WO2005/080342) (0.216 g, 1 mmol) in DCM (2.5 mL) was added drop wise to a stirred solution of cyclohexylamine (0.171 mL, 1.50 mmol) and N-ethyldiisopropylamine (0.606 mL, 3.50 mmol) in THF (5 mL) at 20° C., over a period of 2 minutes under nitrogen. The resulting solution was stirred at room temperature for 2 hours. The reaction mixture was diluted with DCM (10 mL) and washed sequentially with 2M HCl (10 mL), saturated NaHCO3 (10 mL), and saturated brine (10 mL). The organic layer was collected from a phase separation cartridge (15 ml) and evaporated to afford crude product. This was triturated with Et2O to give a solid that was collected by filtration and dried under vacuum to give 6-chloro-N-cyclohexyl-2-cyclopropylnicotinamide (79%) as a white solid.

reactant | 6-chloro-2-cyclopropylnicotinoyl chloride | 1 mmol, 0.216 g | ClC1=NC(=C(C(=O)Cl)C=C1)C1CC1 | C9H7Cl2NO
reactant | cyclohexylamine | 1.50 mmol, 0.171 mL | C1(CCCCC1)N | C6H13N
reactant | N-ethyldiisopropylamine | 3.50 mmol, 0.606 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-N-cyclohexyl-2-cyclopropylnicotinamide | 79% | ClC1=NC(=C(C(=O)NC2CCCCC2)C=C1)C1CC1 | C15H19ClN2O
